US04558132
1,3-Dihydro-N-[2-[[3-(1,3-dioxo-2H-isoindol-2-yl)propyl]phenylamino]-3-pyridinyl]benzamide
2-[3-[(3-Amino-2-pyridinyl)phenylamino]propyl]-1H-isoindole-1,3-(2H)-dione is reacted with benzoyl chloride to prepare the title compound.

reactant | 2-[3-[(3-Amino-2-pyridinyl)phenylamino]propyl]-1H-isoindole-1,3-(2H)-dione | NC=1C(=NC=CC1)N(CCCN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C22H20N4O2
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 1,3-Dihydro-N-[2-[[3-(1,3-dioxo-2H-isoindol-2-yl)propyl]phenylamino]-3-pyridinyl]benzamide | O=C1N(C(C2=CC=CC=C12)=O)CCCN(C1=NC=CC=C1NC(C1CCCC=C1)=O)C1=CC=CC=C1 | C29H28N4O3
